US07674802B2
{(S)-2-[4-(3-Chloro-indazol-2-yl)-phenoxymethyl]-pyrrolidin-1-yl}-acetic acid methyl ester:
The title compound was prepared from product from 3-chloro-2-[4-((S)-1-pyrrolidin-2-ylmethoxy)-phenyl]-2H-indazole (0.33 g, 0.94 mmol) and t-butyl bromoacetate (0.22 g, 1.1 mmol) using the procedure of step 1 of the Example 15 to provide the title compound (0.258 g, 63%).

reactant | 3-chloro-2-[4-((S)-1-pyrrolidin-2-ylmethoxy)-phenyl]-2H-indazole | 0.94 mmol, 0.33 g | ClC=1N(N=C2C=CC=CC12)C1=CC=C(C=C1)OC[C@H]1NCCC1 | C18H18ClN3O
reactant | t-butyl bromoacetate | 1.1 mmol, 0.22 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | {(S)-2-[4-(3-Chloro-indazol-2-yl)-phenoxymethyl]-pyrrolidin-1-yl}-acetic acid methyl ester | 0.258 g, 63% | COC(CN1[C@@H](CCC1)COC1=CC=C(C=C1)N1N=C2C=CC=CC2=C1Cl)=O | C21H22ClN3O3
